US06686439B2
Method in which thiophene-2-thiol is reacted with 5-bromo valeric acid to obtain 5-(2-thienylsulfanyl)valeric acid represented by Chemical Formula [4].

reactant | thiophene-2-thiol | S1C(=CC=C1)S | C4H4S2
reactant | 5-bromo valeric acid | BrCCCCC(=O)O | C5H9BrO2
product | 5-(2-thienylsulfanyl)valeric acid | S1C(=CC=C1)SCCCCC(=O)O | C9H12O2S2
